US04181800
Methyl 2-(2-oxo-3-phthalimido-1-azetidinyl)-3-phenylthiopropionate (5.1 g.) and pyridine (4.0 g.) were dissolved in dichloromethane (100 ml.), and to the solution, there was added dichloromethane (20 ml.) solution containing sulfuryl chloride (2.0 g.) at 35° to 40° C. in the course of 70 minutes with stirring. The stirring was continued at the same temperature for an hour. After the reaction, the reaction mixture was evaporated to dryness under reduced pressure. Ethyl acetate (100 ml.) and water (50 ml.) were added to the residue obtained, and the resultant mixture was stirred for a while. The ethyl acetate layer was separated from the mixture and the remaining aqueous solution was extracted with ethyl acetate. This extract and the above ethyl acetate layer were combined, washed with three portions of diluted hydrochloric acid, three portions of saturated aqueous sodium bicarbonate, two portions of water and then dried over magnesium sulfate. The solvent was removed by distillation from the solution under reduced pressure to give an oily residue (4.95 g.), which was subjected to column chromatography on silica gel(30 g.). Elution was carried out with chloroform and the fractions containing a desired compound were collected. The solvent was removed by distillation from the solution under reduced pressure to give methyl 2-(2-oxo-3-phthalimido-1-azetidinyl)-3-phenylthioacrylate (a mixture of trans and cis isomer) (4.23 g.).

reactant | Methyl 2-(2-oxo-3-phthalimido-1-azetidinyl)-3-phenylthiopropionate | 5.1 g | O=C1N(CC1N1C(C=2C(C1=O)=CC=CC2)=O)C(C(=S)OC)CC2=CC=CC=C2 | C21H18N2O4S
reactant | pyridine | 4.0 g | N1=CC=CC=C1 | C5H5N
reactant | sulfuryl chloride | 2.0 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 2-(2-oxo-3-phthalimido-1-azetidinyl)-3-phenylthioacrylate | O=C1N(CC1N1C(C=2C(C1=O)=CC=CC2)=O)C(C(=S)OC)=CC2=CC=CC=C2 | C21H16N2O4S
